US04435387
N,N',N"-Tris[4-[[2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranosyl]thio]phenyl]-1,3,5-benzenetricarboxamide
To a solution of 2.5 g of 4-aminophenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside in 25 ml of pyridineacetonitrile (1:1) was added 300 mg of 1,3,5-benzenetricarboxylic acid chloride. The resulting solution was kept at ambient temperature, protected from moisture for 24 hours, then poured into 250 ml of water. The solution was extracted several times with chloroform. The combined extracts were washed with 0.5 N hydrochloric acid and saturated sodium chloride solution, dried with anhydrous magnesium sulfate and taken to dryness giving 2.7 g of the desired intermediate as a foam.

reactant | 4-aminophenyl 2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-1-thio-β-D-glucopyranoside | 2.5 g | C(C)(=O)O[C@H]1[C@H](SC2=CC=C(C=C2)N)O[C@@H]([C@H]([C@@H]1OC(C)=O)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC(C)=O | C32H41NO17S
reactant | 1,3,5-benzenetricarboxylic acid chloride | 300 mg | C1(=CC(=CC(=C1)C(=O)Cl)C(=O)Cl)C(=O)Cl | C9H3Cl3O3
reactant | water | 250 ml | O | H2O
solvent | pyridineacetonitrile | 25 ml | N1=C(C=CC=C1)CC#N | C7H6N2
product | N,N',N"-Tris[4-[[2,3,6-tri-O-acetyl-4-O-(2,3,4,6-tetra-O-acetyl-α-D-glucopyranosyl)-β-D-glucopyranosyl]thio]phenyl]-1,3,5-benzenetricarboxamide | 2.7 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)O[C@@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)COC(C)=O)SC1=CC=C(C=C1)NC(=O)C1=CC(=CC(=C1)C(=O)NC1=CC=C(C=C1)S[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](O[C@@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)[C@H](O1)COC(C)=O)C(=O)NC1=CC=C(C=C1)S[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](O[C@@H]2[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O2)COC(C)=O)[C@H](O1)COC(C)=O | C105H123N3O54S3
